US04851418
[1-Methyl-2-[[(3-methyl-3-pyrrolidinyl)methyl]amino]-2-oxoethyl]carbamic acid, 1,1-dimethylethyl ester (mixture of isomers)
A solution of 23.1 g (61.6 mmol) of [1-methyl-2-[[(3-methyl-1-(phenylmethyl)-3-pyrrolidinyl)methyl]-amino]-2-oxoethyl]carbamic acid, 1,1-dimethylethyl ester in 400 ml of methanol was treated with 3.0 g of 20% palladium on carbon and shaken in a hydrogen atmosphere at temperatures of 22°-26° and pressures of 48.7-53.4 psi for 2.5 hours. The catalyst was removed by filtering through celite and the filtrate was evaporated in vacuo to give 17.0 g of the title compound.

reactant | [1-methyl-2-[[(3-methyl-1-(phenylmethyl)-3-pyrrolidinyl)methyl]-amino]-2-oxoethyl]carbamic acid, 1,1-dimethylethyl ester | 61.6 mmol, 23.1 g | CC(C(=O)NCC1(CN(CC1)CC1=CC=CC=C1)C)NC(OC(C)(C)C)=O | C21H33N3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 400 ml | CO | CH4O
catalyst | palladium on carbon | 3.0 g | [Pd] | Pd
product | [1-Methyl-2-[[(3-methyl-3-pyrrolidinyl)methyl]amino]-2-oxoethyl]carbamic acid, 1,1-dimethylethyl ester | 17.0 g | CC(C(=O)NCC1(CNCC1)C)NC(OC(C)(C)C)=O | C14H27N3O3
